US08349859B2
4-Hydroxy-2-(methylthio) pyrimidine-5-carbonitrile (3 mmol) and m-anisidine (3 mmol) in pentan-1-ol was refluxed for 40 h under nitrogen. The reaction mixture was concentrated in vacuo. The residue was washed with water and dried to afford 4-hydroxy-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile.

reactant | 4-Hydroxy-2-(methylthio) pyrimidine-5-carbonitrile | 3 mmol | OC1=NC(=NC=C1C#N)SC | C6H5N3OS
reactant | m-anisidine | 3 mmol | COC1=CC(=CC=C1)N | C7H9NO
solvent | pentan-1-ol | C(CCCC)O | C5H12O
product | 4-hydroxy-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile | OC1=NC(=NC=C1C#N)NC1=CC(=CC=C1)OC | C12H10N4O2
